US06939882B1
3-Chloro-5-(trifluoromethyl)-2-pyridinecarbaldehyde 2-(2-nitrophenyl)hydrazone (Compound 701)
A mixture of 3-chloro-5-(trifluoromethyl)pyridine-2-carboxaldehyde (1.05 g) and 2-nitrophenylhydrazine (0.76 g) in ethanol (75 ml) was heated at reflux for 2.5 hours and then allowed to cool to room temperature overnight. The resulting orange solid was isolated by filtration and recrystallised (petrol) to afford the title compound as admixture of isomers, m.p. 127-35° C.

reactant | 3-chloro-5-(trifluoromethyl)pyridine-2-carboxaldehyde | 1.05 g | ClC=1C(=NC=C(C1)C(F)(F)F)C=O | C7H3ClF3NO
reactant | 2-nitrophenylhydrazine | 0.76 g | [N+](=O)([O-])C1=C(C=CC=C1)NN | C6H7N3O2
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 3-Chloro-5-(trifluoromethyl)-2-pyridinecarbaldehyde 2-(2-nitrophenyl)hydrazone | [N+](=O)([O-])C1=C(C=CC=C1)NN=CC1=NC=C(C=C1Cl)C(F)(F)F | C13H8ClF3N4O2
